US05073559
Example 8 2-(2-Propoxyphenyl)-8-mercaptopurin-6-one
A mixture of 4,5-diamino-2-(2-propoxyphenyl)pyrimidin-6-one (13 g), anhydrous potassium acetate (0.34 g) and thiourea (0.96 g) was heated at 170°-180° C. for 2 hours. After digestion with water the mixture was filtered and the solid was dissolved in I Normal sodium hydroxide solution then re-precipitated by the addition of acetic acid. The dried solid was digested with chloroform and with ethanol to leave l.12 g of a crude product. Repeated recrystallisations from dimethylformamide, 2-methoxyethanol, and acetic acid yielded the title compound, 0.32 g, m.p. 305°-307° C.

reactant | 4,5-diamino-2-(2-propoxyphenyl)pyrimidin-6-one | 13 g | NC=1N=C(NC(C1N)=O)C1=C(C=CC=C1)OCCC | C13H16N4O2
reactant | potassium acetate | 0.34 g | C(C)(=O)[O-].[K+]
reactant | thiourea | 0.96 g | NC(=S)N | CH4N2S
product | 2-(2-Propoxyphenyl)-8-mercaptopurin-6-one | C(CC)OC1=C(C=CC=C1)C1=NC(C2=NC(=NC2=N1)S)=O | C14H12N4O2S
